US05362878
5-Amino-4-bromoisoquinoline (prepared according to the process described by Gordon et al., J. Het. Chem,, 4, 410 (1967)) was allowed to react with sodium thiomethoxide according to the procedure of Massie, Iowa State Coll. J. Sci., 21, 41 (1946) (Ca. 41: 3044 g) to give 5-amino-4-methylthioisoquinoline. This material was coupled with 2-hexylthiodecanoic acid (prepared by the procedures described in Examples 1 and 3) using the procedure described in Example 25 to give the title compound.

reactant | 5-Amino-4-bromoisoquinoline | NC1=C2C(=CN=CC2=CC=C1)Br | C9H7BrN2
reactant | sodium thiomethoxide | C[S-].[Na+]
product | 5-amino-4-methylthioisoquinoline | NC1=C2C(=CN=CC2=CC=C1)SC | C10H10N2S
